US05723475
Synthesis of 5-(4-chlorobutyryl)-2,3,4,5-tetrahydro-1,5-benzoxazepine (16)
2,3,4,5-tetrahydro-1,5-benzoxazepine and 4-chlorobutyryl chloride were used to produce the above compound in the same way as Reference Example 8.

reactant | 2,3,4,5-tetrahydro-1,5-benzoxazepine | O1CCCNC2=C1C=CC=C2 | C9H11NO
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
product | 5-(4-chlorobutyryl)-2,3,4,5-tetrahydro-1,5-benzoxazepine | ClCCCC(=O)N1CCCOC2=C1C=CC=C2 | C13H16ClNO2
